US08895547B2
[(S)-3-(tert-Butyldimethylsilanyloxy)-1-phenylpropyl]-(6,6-dimethyl-4,4-dioxo-5-m-tolyl-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl)amine
Under inert gas, 100 mg of [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine, 8 mg of bis(dibenzylideneacetone)palladium and 19.6 mg of 1,2,3,4,5-pentaphenyl-1-(di-tert-butylphosphino)ferrocene were initially charged, dissolved in 3 ml of toluene and stirred at room temperature for 5 minutes. After the addition of 0.17 ml of a 2 N solution of trimethylaluminum, the reaction mixture was stirred at 70° C. for 1.5 hours. After cooling to room temperature, the solvent was removed under reduced pressure and the residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (51.7 mg) with a molecular weight of 516.8 g/mol (C27H40N2O4SSi); MS (ESI): m/e=517 (M+H+).

reactant | [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropyl]amine | 100 mg | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)(=O)=O | C26H37BrN2O4SSi
reactant | trimethylaluminum | C[Al](C)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,2,3,4,5-pentaphenyl-1-(di-tert-butylphosphino)ferrocene | 19.6 mg | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.C1=CC=C(C=C1)[C-]2C(=C(C(=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe+2]
product | [(S)-3-(tert-Butyldimethylsilanyloxy)-1-phenylpropyl]-(6,6-dimethyl-4,4-dioxo-5-m-tolyl-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-2-yl)amine | 51.7 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C=1C=C(C=CC1)C)(C)C | C27H40N2O4SSi
